Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dyspnea

 
Major Surgical or Invasive Procedure:
s/p cardiac catheterization with DES to the LAD ___
s/p ICD placement on ___

 
History of Present Illness:
Mr. ___ is a ___ with PMH of HTN, poorly controlled diabetes 
who was admitted to CCU for management of LAD STEMI. Patient 
reports episodes of severe chest pain associated with shortness 
of breath, palpitations, diaphoresis and nausea about three 
weeks ago. He went to ___ at that time and was 
treated with Levaquin for pneumonia.  He reports not being able 
to sleep for 3 nights due to chest pain and shortness of breath. 
 His symptoms then improved however he was still not back to his 
baseline.  He overall felt more tired and fatigue.  Then last 
night he had recurrence of his chest chest tightness of ___ 
associated with tachycardia and shortness of breath. He then 
presented to ___ this morning and was found to have 
wide-complex tachycardia and HR in the 190s. He was then given 2 
doses of adenosine and 1 dose of amiodarone with no relief of 
symptoms. He was then cardioverted successfuly with 200J then 
360J. Repeat EKG showed sinus rhythm with ST Elevations of 2mm 
in V2, 0.5mm in V1 and 1mm in V3. He was then asymptomatic with 
no chest pain or shortness of breath. He was given aspirin and 
started on Heparin gtt. He was then transferred to ___ for 
further evaluation and management.

He was taken directly to cath lab for concern of STEMI.  In the 
cath lab, he was found to have complete occlusion of mid LAD 
which was stented with DES through right radial access. He was 
started on Tirofiban and was 600mg plavix loaded. Subsequently 
admitted to the CCU for further monitoring.

Currently patient reports shortness of breath and chest pain has 
resolved.  He reports episodes of shortness of breath, orthopnea 
and PND in the past three weeks.  

 
Past Medical History:
Hypertension
Diabetes Mellitus
Retinitis Pigmentosa
 
Social History:
___
Family History:
Father had a 6way heart bypass at age ___
Mother passed away of stroke at age ___ 
 
Physical Exam:
ADMISSION EXAM:
VS: T=98.1 BP=130/87 (SBP=130-153/DBP=86-106) HR=109-114 
___ O2sat= 96-99% on 4L
Gen: Well appearing gentleman not in acute distress
HEENT: PER, No cervical lymphadenopathy
NECK: JVP at around 14
CV: RRR, II/VI systolic murmur at apex
LUNGS: Mild bilateral basal crackles
ABD: Normal bowel sounds, soft, no tenderness
EXT: 2+ Bilateral lower extremity edema
PULSES: Full and equal
SKIN: Warm and moist
NEURO: Oriented

DISCHARGE EXAM:
VS: Tmax/Tcurrent: Afebrile, 120-138/78-101, HR 86-92sinus, 97% 
RA. I/O:  24h:  600/375 8h:  440/525 +++
Weight: 134kg (136.3kg)
Gen: Well-appearing gentleman sitting up in bed, speaking 
comfortably in full sentences, not in acute distress.
HEENT: No cervical lymphadenopathy
NECK: Cannot appreciate JVD. 
CV: RRR, II/VI systolic murmur at apex
LUNGS: CTAB
ABD: Normal bowel sounds, soft, no tenderness
EXT: trace lower extremity edema. right wrist with normal CSM.
PULSES: Full and equal
SKIN: Warm and moist. Left chest wall with patent gauze/tegaderm 
dssing. No bleeding/hematoma. Normal CSM to left arm
NEURO: Oriented
 
Pertinent Results:
ADMISSION LABS:
=================
___ 07:30AM BLOOD WBC-11.8* RBC-5.46 Hgb-15.5 Hct-46.4 
MCV-85 MCH-28.4 MCHC-33.4 RDW-13.8 Plt ___
___ 07:30AM BLOOD Neuts-68.2 ___ Monos-5.3 Eos-1.6 
Baso-0.4
___ 07:30AM BLOOD ___ PTT-83.8* ___
___ 07:30AM BLOOD Glucose-433* UreaN-14 Creat-0.9 Na-136 
K-4.8 Cl-99 HCO3-21* AnGap-21*
___ 03:37AM BLOOD ALT-27 AST-18 LD(LDH)-261* AlkPhos-90 
TotBili-0.6
___ 07:30AM BLOOD cTropnT-0.23*
___ 07:30AM BLOOD Calcium-9.0 Phos-3.6 Mg-1.8

PERTINENT LABS:
=================
___ 05:27PM BLOOD cTropnT-0.30*
___ 03:37AM BLOOD cTropnT-0.32*
___ 07:30AM BLOOD %HbA1c-12.6* eAG-315*
___ 05:27PM BLOOD Triglyc-165* HDL-43 CHOL/HD-5.2 
LDLcalc-148*
___ 05:27PM BLOOD TSH-1.9

DISCHARGE LABS:
=================
___ 05:00AM BLOOD WBC-9.6 RBC-5.14 Hgb-14.9 Hct-43.0 MCV-84 
MCH-29.0 MCHC-34.7 RDW-14.1 Plt ___
___ 05:00AM BLOOD ___ PTT-41.5* ___
___ 05:00AM BLOOD Glucose-184* UreaN-13 Creat-0.9 Na-137 
K-4.1 Cl-100 HCO3-28 AnGap-13
___ 05:00AM BLOOD Calcium-8.7 Phos-4.1 Mg-1.9

MICROBIOLOGY:
=================
___ 10:23 am MRSA SCREEN      Source: Nasal swab. 
   MRSA SCREEN (Final ___:    No MRSA isolated. 

STUDIES:
=================
ECGStudy Date of ___  12:00:42 ___
Sinus tachycardia. Leftward axis. Inferior wall myocardial 
infarction of indeterminate age. Anterior wall myocardial 
infarction of indeterminate age with ST segment elevation in the 
mid-precordial leads consistent with ST elevation myocardial 
infarction. Low voltage in the limb leads. Clinical correlation 
for ST elevation myocardial infarction is suggested. No previous 
tracing available for comparison.
 IntervalsAxes
___
___

CARDIAC CATH (___):
- Dominance: Right
- LMCA: normal
- LAD: totally occluded after D1
- LCX: normal
- RCA: normal
- Using an XBLAD 3.5 guide, the LAD occlusion was crossed with a 
Pilot 50 wire and dilated with a 2.5 balloon restoring flow. 
This was then stented with a 2.75 x 22 Resolute ___ 
postdilated to 3.0 mm with no residual and restoration of near 
normal flow. The mid and distal LAD had diffuse disease to 60%. 
Time to intervention was delayed due to initial ventricular 
tachycardia and transfer from ___. 
RECOMMENDATIONS:
- Monitor in CCU
- Follow enzymes. Cardiac ECHO.
- Continue aspirin indefinitely, clopidogrel minimum ___ year. 

ECG Study Date of ___  7:38:44 AM 
Sinus tachycardia. Probable inferior wall myocardial infarction 
of 
indeterminate age. Loss of R waves in the anterolateral leads 
suggests 
extensive myocardial infarction of indeterminate age. Low QRS 
voltages in the limb leads. Modest diffuse ST-T wave changes.  
TRACING #1 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
112 166 74 332/423 35 -13 145 
 
Portable TTE (Complete) Done ___ at 4:02:31 ___      FINAL 
The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy with normal cavity size. Overall left 
ventricular systolic function is moderately depressed (Biplane 
LVEF= 30%) secondary to akinesis of the apex, septum, and distal 
anterior and inferior walls. A large (2.7 x 2.3 cm) apical 
thrombus is seen in the left ventricle. Two smaller thrombi are 
also appreciated along the distal inferior wall. The ascending 
aorta is mildly dilated. The aortic arch is mildly dilated. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve leaflets are structurally 
normal. Trivial mitral regurgitation is seen. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion.
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
moderate-severe regional and global systolic dysfunction c/w 
CAD. Multiple LV thrombi as described above. Restrictive LV 
filling. No significant valvular disease.

ECG Study Date of ___  7:46:30 AM 
Sinus tachycardia. Compared to tracing #1 multiple described 
abnormalities persist. TRACING #2 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
111 162 76 336/425 37 -10 147 
 
ECG Study Date of ___  9:26:30 AM 
Sinus tachycardia. Compared to tracing ___ 
segment appears to be elevated with more biphasic T waves 
suggestive of acute myocardial injury pattern. Compared to 
tracing ___ segment elevation appears more 
pronounced. Clinical correlation is suggested.  TRACING #3 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
110 174 80 340/427 57 -9 141 

CHEST (PORTABLE AP) Study Date of ___ 9:47 ___ 
IMPRESSION:  
The lung volumes are low. Minimal blunting of the left 
costophrenic sinus 
could be caused by a minimal pleural effusion. The retrocardiac 
atelectasis is visualized. Mild pulmonary edema is present.  No 
evidence of pneumonia. No pneumothorax. Borderline size of the 
cardiac silhouette. 

ECG Study Date of ___  4:04:56 ___ 
Sinus tachycardia. Inferior myocardial infarction of 
indeteminate age. 
Anterior wall myocardial infarction which could be recent/acute. 
Low 
QRS voltage in the limb leads. Compared to the previous tracing 
of ___ no significant change. 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
113 160 86 330/422 31 -24 135 
 
ECG Study Date of ___  8:49:52 AM 
Sinus rhythmm. Left atrial abnormality. Prior inferior 
myocardial infarction and prior anteroseptal and lateral 
myocardial infarction with continued ST segment elevation which 
is upward coved in leads V1-V6 consistent with ongoing or recent 
anteroseptal, lateral and apical myocardial infarction. Followup 
and clinical correlation are suggested. Compared to the previous 
tracing of ___ no diagnostic interim change. 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
96 158 82 370/433 23 -9 161 

CHEST (PA & LAT) Study Date of ___ 9:38 AM 
IMPRESSION:  
Small left pleural effusion and moderate left lower lobe 
atelectasis are 
probably unchanged since ___.  There is no pneumothorax. 
Transvenous right atrial pacer and right ventricular pacer 
defibrillator leads follow their expected courses from the left 
pectoral generator.  Heart is normal size.  There is no 
mediastinal widening.  Right lung is clear. 

 

 

 
Brief Hospital Course:
___ with PMH of HTN, poorly controlled diabetes who was admitted 
to CCU for management of LAD STEMI s/p DES. Now s/p ICD for VT 
and newly-dx LV thrombi being managed with Coumadin. 

#) ACUTE CORONARY SYNDROME: Patient most likely had the LAD 
STEMI about three weeks ago as evidenced by his q waves. He had 
complete occlusion of his LAD s/p ___ on ___. Was 
subsequently treated with tirofiban for 8 hours, and was started 
on Aspirin 81mg daily, Clopidogrel 75mg daily (after being 
loaded with 600 mg initially), and Atorvastatin 80mg Daily. Also 
treated with heparin gtt for multiple LV thrombi seen on ECHO 
(as below). Dose of lisinopril increased from 10 mg to 40 mg 
daily. Was started on metoprolol succinate 100mg po qam and 50mg 
po qpm.  

#) APICAL THROMBUS: multiple LV thrombi seen on ___ ECHO - a 
large (2.7 x 2.3 cm) apical thrombus, as well as two smaller 
thrombi along the distal inferior wall. Heparin gtt started 
___. Started on coumadin, which was titrated to 4 mg qd on 
discharge. INR on ___ was 3.5. Patient will f/u with Dr. ___ 
___ for INR management. Will need repeat ECHO in 3 months to 
reassess LV thrombi. 

#) SYSTOLIC HEART FAILURE, TTE ___ with EF 30%: Patient has 
clinical symptoms of heart failure with shortness of breath, 
orthopnea and PND for the past three weeks.   Patient initially 
diuresed with 20 mg IV lasix, and then transitioned to 40 mg PO 
lasix daily.  Managed with metoprolol and ACEI as above. 

#) V TACH: initially presented to ___ on ___ with 
ventricular tachycardia @ 205 bpm.  VT likely in setting of 
infarct. Was cardioverted to sinus rhythm, and transferred to 
___ for further management. On ___, a ___ 
Energen dual-chamber ICD was successfully implanted for 
secondary prevention of sudden cardiac death. Patient was 
treated with 1 dose of vancomycin, followed by 3 days of 
cephalexin. Will f/u with EP and device clinic. 

#) DIABETES: Uncontrolled; HbA1c now 12.6. ___ consulted. 
Patient treated with lantus + HISS while in-house. Patient will 
be discharged with ___ f/u, on Lantus + Humalog ISS, while 
continuing metformin. 

#)HYPERTENSION: increased dose of lisinopril and started on 
metoprolol as above.

TRANSITIONAL ISSUES:
# CODE: Full
# CONTACT:  ___ (___)
- ICD placed; will f/u with EP and device clinic
- Started on warfarin for anticoagulation given LV thrombus; 
will f/u with Dr. ___ for INR management. 
- Will need repeat ECHO in 3 months to reassess LV thrombi. 
- Started on Aspirin 81mg daily, Clopidogrel 75mg daily, 
Atorvastatin 80mg Daily, Metoprolol succinate 100mg po qam and 
50mg po qpm.
- Started on Furosemide 40 mg PO DAILY for ___
- Started on lantus + humalog SSI, in addition to metformin - 
for better control of DM
- Dose of lisinopril increased from 10 mg to 40 mg daily
- Needs to complete 3 more doses of cephalexin s/p ICD placement

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 1000 mg PO BID 
2. Lisinopril 10 mg PO DAILY 

 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3
3. Clopidogrel 75 mg PO DAILY 
DO NOT STOP unless TOLD TO BY ___ 
___ *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*11
4. Furosemide 40 mg PO DAILY 
RX *furosemide 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3
5. Glargine 20 Units Breakfast
Humalog 6 Units Breakfast
Humalog 6 Units Lunch
Humalog 8 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
RX *insulin glargine [Lantus] 100 unit/mL AS DIR 20 Units before 
BKFT; Disp #*2 Vial Refills:*1
RX *insulin lispro [Humalog] 100 unit/mL AS DIR Up to 12 Units 
QID per sliding scale Disp #*1 Vial Refills:*0
RX *insulin syringe-needle U-100 [BD Insulin Syringe Ultra-Fine] 
31 gauge x ___ for insulin injections up to five times a day 5 
x daily Disp #*150 Syringe Refills:*1
6. Lisinopril 40 mg PO DAILY 
RX *lisinopril 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3
7. Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth daily in am 
Disp #*30 Tablet Refills:*3
8. Metoprolol Succinate XL 50 mg PO QPM 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth daily in pm 
Disp #*30 Tablet Refills:*3
9. Cephalexin 500 mg PO Q8H Duration: 3 Doses 
RX *cephalexin 500 mg 1 capsule(s) by mouth three times a day 
Disp #*3 Capsule Refills:*0
10. Outpatient Lab Work
420.0
INR draw ___
RESULTS sent to: Dr. ___: ___  Fax: ___ 

11. Outpatient Lab Work
420.0
INR/ Chem 7 draw ___
RESULTS sent to: Dr. ___: ___  Fax: ___ 

12. MetFORMIN (Glucophage) 1000 mg PO BID 
13. Warfarin 4 mg PO DAILY16 
Dr. ___ will call you to tell you what to take after you have 
your INR drawn 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ventricular tachycardia 
acute coronary syndrome s/p DES to the LAD
poorly controlled diabete Type II
systolic heart failure (EF 30%)
LV thrombus (on coumadin)
s/p ICD placement ___ 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 
You were transferred to ___ for treatment of your chest 
pain and arrythmia. You EKG was concerning and upon arrival you 
were taken to the cardiac cathterization lab where a blockage 
was found in the left anterior descending artery. A ___ was 
placed to open the blockage successfully. Following the cardiac 
cathterization an ultrasound of the heart called an 
echocardiogram was done which revealed a clot in the left 
ventricle which puts you at risk for stroke. You were started on 
anticoagulation called coumadin which we are monitoring its 
effectiveness by drawing a lab called an INR. Dr. ___ will call 
you to dose your coumadin appropriately based on these labs. You 
will receive lab slips for the outpatient lab work. 

Because you had a lethal arrythmia called ventricular 
tachycardia you needed an ICD, defibrillator which was placed in 
the chest and will activate if you go into another lethal 
arrythmia while at home. You have a follow up in the device 
clinic to assess the site and the settings.

You now have a history of heart failure and need to weigh 
yourself every day. If your weight goes up more than 3 pounds in 
1 day or more than 5 pounds in 2 days please call Dr. ___. Your 
weight on day of discharge is 295 pounds. 

You have been started on insulin for your blood sugars which was 
not well controlled on pills alone and have been given injection 
teaching and wil have a follow up with ___ for care in the 
next week. 

You have been given an updated list of the medications you are 
taking on discharge. 

Activity restrictions per nursing. 

It was a pleasure taking care of you this hospitalization. If 
you have any queations related to your stay please feel free to 
contact the heartline. 
 
Followup Instructions:
___